US05238908
a. 4-chloro-2-fluoro-5-(methoxymethoxy)nitrobenzene
To 1.12 g (5.9 mmol) of 2-chloro-4-fluoro-5-nitrophenol in 100 ml CH2Cl2 was added 2 ml of dimethoxymethane followed by 7.48 g (53 mmol) of phosphorus pentoxide. The reaction was stirred at room temperature for 3 hours after which time an additional 100 ml of CH2Cl2 was added. The reaction was poured onto 200 ml ice and the resulting layers were separated. The aqueous phase was extracted once more with water (2×100 ml), dried over MgSO4 and concentrated to afford 1.16 g (95% yield) of the desired product as a pale yellow solid.

reactant | 2-chloro-4-fluoro-5-nitrophenol | 5.9 mmol, 1.12 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
reactant | dimethoxymethane | 2 ml | COCOC | C3H8O2
reactant | phosphorus pentoxide | 53 mmol, 7.48 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-fluoro-5-(methoxymethoxy)nitrobenzene | 1.16 g, 95% yield | ClC1=CC(=C(C=C1OCOC)[N+](=O)[O-])F | C8H7ClFNO4
